US09302996B2
Methanol (1.5 mL) and tetrahydrofuran (1.5 mL) were added to methyl 3-[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoate (274 mg), and after adding 2N aqueous sodium hydroxide solution (1.5 mL) to the mixture, the resulting mixture was stirred 50° C. for 2 hours. Ethyl acetate was added to the reaction mixture, and the resulting mixture was neutralized by 1N hydrochloric acid. The organic layer was separated, washed with a saturated brine, and concentrated under reduced pressure to obtain 3-[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid (279 mg).

reactant | Methanol | 1.5 mL | CO | CH4O
reactant | methyl 3-[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoate | 274 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C | C28H35ClF3N3O4Si
reactant | sodium hydroxide | 2N, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 3-[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoic acid | 279 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC(C(=O)O)(C)C)C | C27H33ClF3N3O4Si
